US07256215B2
To a stirred suspension of 26.44 g of 5-cyano-2-methoxy-N-[2-(3-methoxymethoxy-2′-methylthiobiphenyl-4-yl)ethyl] benzenesulfonamide and 35.6 g of sodium bicarbonate in a mixture of 530 mL of acetone and 106 mL of water was added two portions of 81.5 g of OXONE (trademark) every 15 minutes under ice-cooling. The mixture was stirred under the same condition for 3 hours, and 100 mL of diethyl ether, 100 mL of water, and saturated aqueous sodium sulfate solution were added to the stirred reaction mixture under ice-cooling. The resulting mixture was concentrated under reduced pressure to remove acetone, and thereafter 300 mL of water and diethyl ether-hexane were added to the stirred residue under ice-cooling. The mixture was stirred for 30 minutes, and the precipitate was collected by filtration, washed with water and diethyl ether-hexane to give 27.1 g of 5-cyano-N-[2-(2′-methanesulfonyl-3-methoxymethoxybiphenyl-4-yl)ethyl]-2-methoxybenzenesulfonamide as a white powder.

reactant | 5-cyano-2-methoxy-N-[2-(3-methoxymethoxy-2′-methylthiobiphenyl-4-yl)ethyl] benzenesulfonamide | 26.44 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C1=C(C=CC=C1)SC)OCOC)OC | C25H26N2O5S2
reactant | sodium bicarbonate | 35.6 g | C([O-])(O)=O.[Na+]
reactant | OXONE | 81.5 g | OOS(=O)[O-].[K+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 106 mL | O | H2O
reactant | water | 100 mL | O | H2O
solvent | acetone | 530 mL | CC(=O)C | C3H6O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 5-cyano-N-[2-(2′-methanesulfonyl-3-methoxymethoxybiphenyl-4-yl)ethyl]-2-methoxybenzenesulfonamide | 27.1 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)OCOC)OC | C25H26N2O7S2
